US06943159B1
2-Phenyl-4-oxo-1,2,3,4-tetrahydroquinazoline
Anthranilamide was transformed by Method G (using benzaldehyde). M.p. 221-222° C.

reactant | Anthranilamide | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 2-Phenyl-4-oxo-1,2,3,4-tetrahydroquinazoline | C1(=CC=CC=C1)C1NC2=CC=CC=C2C(N1)=O | C14H12N2O
